US06608063B2
Synthesis of N-[5-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-3-(2,4-dichlorophenyl)pyrazin-2-yl]acetamide
A solution of N-acetyl-N-[3-(2,4-dichlorophenyl)-6-bromopyrazin-2-yl]acetamide (57 mg, 0.14 mmol) in DMF (2 ml) were added (2-aminoethyl)(6-amino-5-nitro(2-pyridyl))amine (28 mg, 0.141 mmol), sodium tert-butoxide (20 mg, 0.21 mmol), BINAP (38 mg, 0.06 mmol) and palladium acetate (10 mg, 0.04 mmol). The reaction mixture was stirred overnight at 80° C. The solution was cooled to room temperature, taken in ethyl acetate and water. The layers were separated and the organic layer was washed with water and brine, dried, concentrated and purified to afford the title product.

reactant | N-acetyl-N-[3-(2,4-dichlorophenyl)-6-bromopyrazin-2-yl]acetamide | 0.14 mmol, 57 mg | C(C)(=O)N(C(C)=O)C1=NC(=CN=C1C1=C(C=C(C=C1)Cl)Cl)Br | C14H10BrCl2N3O2
reactant | (2-aminoethyl)(6-amino-5-nitro(2-pyridyl))amine | 0.141 mmol, 28 mg | NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N | C7H11N5O2
reactant | sodium tert-butoxide | 0.21 mmol, 20 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.06 mmol, 38 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | palladium acetate | 0.04 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[5-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-3-(2,4-dichlorophenyl)pyrazin-2-yl]acetamide | NC1=C(C=CC(=N1)NCCNC=1N=C(C(=NC1)NC(C)=O)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C19H18Cl2N8O3
